US04719312
N-Carbobenzoxy-glycyl-N-dodecyl phenylalanineamide
Dodecylamine (924 mg.) in 20 ml. THF is added dropwise to a 0° C. solution of 1.78 g. z-Gly-Phe and 1.02 g. DDC in 30 ml. THF under N2 and stirred at 0° C. for 4 hours. The reaction mixture is filtered, the filtrate evaporated in vacuo to give 3.53 g. crude product, which was chromatographed on 100 g. silica gel in CHCl3 /EtOAc (2:1) to give 890 mg. product (34%). NMR (CDCl3, δ): 7.7m (1H); 7.3 d (10 Hz); 6.6 m (1H); 6.2 (1H); 5.2 s (2H); 4.8 m (1H); 3.9 d, J=6 Hz (2H); 3.1 m (4H); 1.3 bs (20H); 0.9 m (3H).

reactant | Dodecylamine | 924 mg | C(CCCCCCCCCCC)N | C12H27N
reactant | z-Gly-Phe | N(CC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C19H20N2O5
solvent | THF | C1CCOC1 | C4H8O
product | N-Carbobenzoxy-glycyl-N-dodecyl phenylalanineamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCCCCCCCCCCCC | C31H45N3O4
